US07629363B2
Step 1: Preparation of 3,4-dibromo-1-(3-fluorobenzyl)pyridin-2(1H)-one
3-bromo-1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl trifluoromethanesulfonate (2.00 g, 4.65 mmol), KBr (5.53 g, 46.49 mmol), and 18-Crown-6-(0.10 g, 0.38 mmol) were dissolved in N,N-dimethylacetamide (26 mL). The reaction mixture was then heated at reflux for 16 hours. The reaction was concentrated and the resulting residue was partition between water (50 mL) and ethyl acetate (3×50 mL). The combined organics were washed with H2O (2×30 mL), brine (50 mL), dried over MgSO4, concentrated, and subjected to chromatography (silica gel, ethyl acetate with 10% methanol/hexane) to afford a brown solid (0.850 g, 51%).

reactant | 3-bromo-1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl trifluoromethanesulfonate | 4.65 mmol, 2.00 g | FC(S(=O)(=O)OC1=C(C(N(C=C1)CC1=CC(=CC=C1)F)=O)Br)(F)F | C13H8BrF4NO4S
reactant | KBr | 46.49 mmol, 5.53 g | [K+].[Br-]
solvent | N,N-dimethylacetamide | 26 mL | CN(C(C)=O)C | C4H9NO
product | 3,4-dibromo-1-(3-fluorobenzyl)pyridin-2(1H)-one | 0.850 g, 51% | BrC=1C(N(C=CC1Br)CC1=CC(=CC=C1)F)=O | C12H8Br2FNO
